US08067447B2
3-(1-(4-Fluorophenyl)-1H-indazol-5-yl)-N-(1-methyl-1H-1,2,4-triazol-3-yl)-3-phenylpropanamide
Example 137 was prepared from 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylpropanoic acid (50 mg, 0.14 mmol) and 1-methyl-1H-1,2,4-triazol-3-amine using General Coupling Method A to give 7 mg (11% yield). MS found: (M+H)+=441.5.

reactant | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-3-phenylpropanoic acid | 0.14 mmol, 50 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(CC(=O)O)C1=CC=CC=C1 | C22H17FN2O2
reactant | 1-methyl-1H-1,2,4-triazol-3-amine | CN1N=C(N=C1)N | C3H6N4
product | 3-(1-(4-Fluorophenyl)-1H-indazol-5-yl)-N-(1-methyl-1H-1,2,4-triazol-3-yl)-3-phenylpropanamide | 11% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(CC(=O)NC1=NN(C=N1)C)C1=CC=CC=C1 | C25H21FN6O
